US08378118B2
Step-VI: Preparation of 7-Methoxy-6-methyl-indan-4-carbaldehyde
To a stirred suspension of 6-Methyl-7-hydroxy-indan-4-carbaldehyde (5 gm, 0.0284 mole) and Potassium carbonate (4.7 gm, 0.0340 mole) in dimethyl formamide, Methyl iodide (2.2 ml, 0.0312 mole) was added at 0° C. The reaction mixture was stirred at 25-30° C. for 4 hours, then water (200 ml) was added and extracted with Ethylacetate (2×100 ml). The Ethylacetate layer was dried over Sodium sulphate and evaporated to give a crude mass which was purified by column chromatography using Ethyl acetate:Hexane (10:90) as a mobile phase. The fractions were distilled under vacuum to give 4.8 gm of desired product as viscous oil.

reactant | 6-Methyl-7-hydroxy-indan-4-carbaldehyde | 0.0284 mole, 5 gm | CC=1C=C(C=2CCCC2C1O)C=O | C11H12O2
reactant | Potassium carbonate | 0.0340 mole, 4.7 gm | C([O-])([O-])=O.[K+].[K+]
reactant | Methyl iodide | 0.0312 mole, 2.2 ml | CI | CH3I
reactant | water | 200 ml | O | H2O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 7-Methoxy-6-methyl-indan-4-carbaldehyde | 4.8 gm, Yield: 88.9% | COC1=C(C=C(C=2CCCC12)C=O)C | C12H14O2
